US08809361B2
1″-(5-Methyl-pyrimidin-2-yl)-5-(4-methylsulfonyl-phenyl)-dispiro[2,3-dihydrofuro[2,3-c]pyridine-2,1′-cyclobutane-3′,4″-piperidine]
The title compound is prepared from 5-(4-methylsulfonyl-phenyl)-dispiro[2,3-dihydrofuro[2,3-c]pyridine-2,1′-cyclobutane-3′,4″-piperidine] (HCl salt) and 2-bromo-5-methyl-pyrimidine following a procedure analogous to that described for Example 4. LC (method 1): tR=1.07 min; Mass spectrum (ESI+): m/z=477 [M+H]+.

reactant | 5-(4-methylsulfonyl-phenyl)-dispiro[2,3-dihydrofuro[2,3-c]pyridine-2,1′-cyclobutane-3′,4″-piperidine] | CS(=O)(=O)C1=CC=C(C=C1)C=1C=C2C(=CN1)OC1(CC3(CCNCC3)C1)C2 | C21H24N2O3S
reactant | 2-bromo-5-methyl-pyrimidine | BrC1=NC=C(C=N1)C | C5H5BrN2
product | 1″-(5-Methyl-pyrimidin-2-yl)-5-(4-methylsulfonyl-phenyl)-dispiro[2,3-dihydrofuro[2,3-c]pyridine-2,1′-cyclobutane-3′,4″-piperidine] | CC=1C=NC(=NC1)N1CCC2(CC1)CC1(C2)CC=2C(=CN=C(C2)C2=CC=C(C=C2)S(=O)(=O)C)O1 | C26H28N4O3S
